US08536165B2
5-Bromo-2-(3-ethoxyphenyl)-4-methylpyridine
Obtained (1.14 g, yield 49%) following the procedure described in Intermediate 27, starting with 2,5-dibromo-4-methylpyridine (7.97 mmol, 2.0 g), 3-ethoxyphenylboronic acid (7.97 mmol, 1.32 gl).

reactant | 2,5-dibromo-4-methylpyridine | 7.97 mmol, 2.0 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | 3-ethoxyphenylboronic acid | 7.97 mmol | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 5-Bromo-2-(3-ethoxyphenyl)-4-methylpyridine | yield 49% | BrC=1C(=CC(=NC1)C1=CC(=CC=C1)OCC)C | C14H14BrNO
